US05302593
b) Preparation of 3-morpholinylpropylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 3-morpholinylpropylphthalimide (219 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 3-morpholinylpropylphthalimide | 0.8 mmoles, 219 mg | N1(CCOCC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1 | C15H18N2O3
solvent | methanol | 5 ml | CO | CH4O
product | 3-morpholinylpropylamine | N1(CCOCC1)CCCN | C7H16N2O
